US04136256
Preparation of N-[4-(hexadecylamino)benzoyl]methanesulfonamide
A solution of 25.2 g. of 4-(hexadecylamino)benzoyl chloride hydrochloride and 5.8 g. of methanesulfonamide in 250 ml. of pyridine was stirred under reflux for 2 hours and then concentrated in vacuo. The residue was partitioned between water and diethyl ether; the aqueous layer acidified with 1N HCl, and the organic layer separated, dried (MgSO4), and evaporated. Crystallization of the residual white solid from 60% aqueous acetic acid followed by CH2Cl2 -hexane afforded the product as a white solid.

reactant | 4-(hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
reactant | methanesulfonamide | CS(=O)(=O)N | CH5NO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[4-(hexadecylamino)benzoyl]methanesulfonamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NS(=O)(=O)C)C=C1 | C24H42N2O3S
